US07572809B2
d) Preparation of 5,7-Dimethoxy-indan-1,2-dione 2-oxime
To a solution of 5,7-Dimethoxy-indan-1-one (8.7 g, 45.26 mmol) in the methanol (80 ml) was added n-butylnitrite (6.13 ml, 49.78 mmol) followed by concentrated HCl (4.4 ml). The solution was stirred at 40° C. for one hour during which time a precipitate was formed. The precipitate was collected and dried to yield product as a yellow solid (10 g, 99%). LC-MS: m/e 222 (MH+).

reactant | 5,7-Dimethoxy-indan-1-one | 45.26 mmol, 8.7 g | COC=1C=C2CCC(C2=C(C1)OC)=O | C11H12O3
reactant | n-butylnitrite | 49.78 mmol, 6.13 ml | C(CCC)ON=O | C4H9NO2
reactant | HCl | 4.4 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 5,7-Dimethoxy-indan-1,2-dione 2-oxime | 10 g, 99% | COC=1C=C2CC(C(C2=C(C1)OC)=O)=NO | C11H11NO4
